US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3,4-difluoromethylenedioxyaniline gave 2-chloro-N4-(3,4-difluoromethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.09 (d, 1H, J=3 Hz), 7.70 (d, 1H, J=2.4 Hz), 7.10 (dd, 1H, J=2.4 and 8.7 Hz), 7.06 (t, 1H, J=8.1 Hz), 6.97 (bs, 1H); 19F NMR (CDCl3): −14175 and −44562; LCMS: purity: 95%; MS (m/e): 304 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3,4-difluoromethylenedioxyaniline | FC=1C2=C(NOCO2)C=CC1F | C7H5F2NO2
product | 2-chloro-N4-(3,4-difluoromethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=C2C(=C(C(=C1)OCO2)F)F)F | C11H5ClF3N3O2
